US06166202
9-Diethylamino-5-oxo-5H-benzo[a]phenoxazine-2-carboxylic Acid (II)
This was made similarly to the hydroxy derivative above except that the starting materials were 5-diethylamino-2-nitrosophenol hydrochloride and 1-hydroxynaphthalene-6-carboxylic acid.

reactant | 5-diethylamino-2-nitrosophenol hydrochloride | Cl.C(C)N(C=1C=CC(=C(C1)O)N=O)CC
reactant | 1-hydroxynaphthalene-6-carboxylic acid | OC1=CC=CC2=CC(=CC=C12)C(=O)O | C11H8O3
product | 9-Diethylamino-5-oxo-5H-benzo[a]phenoxazine-2-carboxylic Acid | C(C)N(C=1C=C2OC3=CC(C4=C(C3=NC2=CC1)C=C(C=C4)C(=O)O)=O)CC | C21H18N2O4
